US06344179B1
2β-Carbomethoxy-3β-phenyltropane (3a):
This compound was synthesized using a similar reaction as 2β-Carbomethoxy-3β-(4′-trimethylsilylphenyl)tropane starting with anhydroecognine methyl ester and phenylmagnesium bromide.

reactant | 2β-Carbomethoxy-3β-(4′-trimethylsilylphenyl)tropane | C(=O)(OC)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=C(C=C1)[Si](C)(C)C)N2C | C19H29NO2Si
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
product | 2β-Carbomethoxy-3β-phenyltropane | C(=O)(OC)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC=CC=C1)N2C | C16H21NO2
